US08669254B2
2-[5-(3,4-Dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridin-3-yl]-4-(2,2,2-trifluoro-acetyl)-4H-oxazol-5-one
To a solution of 3.00 g {[5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-acetic acid in 30 ml acetone was added drop wise at 0° C. 4.467 g trifluoroacetic acid anhydride and the mixture was stirred with warming to room temperature for 18 h. The solvents were evaporated and the residue was dried under high vacuum. The resulting yellow gum was triturated under water and a little methanol and the mixture was stirred (ca 1 h) until homogenous slurry was obtained. The solid was collected by filtration and dried to constant weight under high vacuum to yield 3.46 g of the title compound as pale yellow powder. MS (EI): 501.0 (M+H).

reactant | {[5-(3,4-dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-acetic acid | 3.00 g | ClC=1C=C(C=CC1Cl)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NCC(=O)O | C16H11Cl2F3N2O4
reactant | trifluoroacetic acid anhydride | 4.467 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-[5-(3,4-Dichloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridin-3-yl]-4-(2,2,2-trifluoro-acetyl)-4H-oxazol-5-one | 3.46 g | ClC=1C=C(C=CC1Cl)C=1C=C(C=NC1OCC(F)(F)F)C=1OC(C(N1)C(C(F)(F)F)=O)=O | C18H8Cl2F6N2O4
